US08703758B2
F) tert-butyl {(1S)-2-[(trans-4-azidocyclohexyl)oxy]-1-methylethyl}carbamate
To a solution of tert-butyl {(1S)-2-[(cis-4-hydroxycyclohexyl)oxy]-1-methylethyl}carbamate (5.00 g), triphenylphosphine (7.20 g) and diphenylphosphorylazide (5.03 g) in toluene (200 mL) was added dropwise a solution (1.9 M, 14.4 mL) of diisopropyl azodicarboxylate in toluene, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated under reduced pressure, the residue was suspended in diethyl ether, and the precipitate was removed by filtration. The filtrate was concentrated, and the residue was purified by silica gel chromatography(hexane/ethyl acetate) to give the title compound (1.05 g).

reactant | tert-butyl {(1S)-2-[(cis-4-hydroxycyclohexyl)oxy]-1-methylethyl}carbamate | 5.00 g | O[C@H]1CC[C@H](CC1)OC[C@H](C)NC(OC(C)(C)C)=O | C14H27NO4
reactant | triphenylphosphine | 7.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diphenylphosphorylazide | 5.03 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diisopropyl azodicarboxylate | 1.9 M, 14.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl {(1S)-2-[(trans-4-azidocyclohexyl)oxy]-1-methylethyl}carbamate | 1.05 g | N(=[N+]=[N-])[C@@H]1CC[C@H](CC1)OC[C@H](C)NC(OC(C)(C)C)=O | C14H26N4O3
